US07488712B2
Boc-D-Tyr(Me)-L-Ile-D-Pro-OBzl (1.01 g, 1.70 mmol) was dissolved in methanol (20 ml) and subjected to catalytic hydrogenation in the presence of 5% Pd-C (150 mg). After 8 hours, the catalyst Pd-C was filtered and the reaction solution was evaporated to obtain Boc-D-Tyr(Me)-L-Ile-D-Pro-OH.

reactant | Boc-D-Tyr(Me)-L-Ile-D-Pro-OBzl | 1.70 mmol, 1.01 g | N([C@H](CC1=CC=C(C=C1)OC)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N1[C@@H](C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C33H45N3O7
solvent | methanol | 20 ml | CO | CH4O
catalyst | Pd-C | 150 mg | [Pd] | Pd
product | Boc-D-Tyr(Me)-L-Ile-D-Pro-OH | N([C@H](CC1=CC=C(C=C1)OC)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N1[C@@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C26H39N3O7
